US08420642B2
2-Bromo-5-hydroxypyridine (6 mmol) is dissolved in DMF (10 ml) and NaH (1.4 eq., 60% suspension in liquid paraffin) is added. After 30 min 1-iodopropane (1.1 eq.) is added and the reaction solution is stirred 18 hours. The reaction solution is pored into water and extracted with methyltert.-butyl ether. The combined organic layers are dried over MgSO4 and the solvent is removed in vacuo. 2-Bromo-5-propoxy-pyridine is obtained as yellow oil in a yield of 87%; HPLC (method C): 1.93 min; LC-MS (method A): 1.78 min, 215.95 (M+H+).

reactant | 2-Bromo-5-hydroxypyridine | 6 mmol | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | NaH | 1.4 eq. | [H-].[Na+]
reactant | 1-iodopropane | 1.1 eq. | ICCC | C3H7I
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Bromo-5-propoxy-pyridine | yield of 87% | BrC1=NC=C(C=C1)OCCC | C8H10BrNO
